*****< 電源電圧変動除去比用テストベンチ >*****
.lib PSRR

*****< Parameters >*****
.param half='psvoltage/2'
.param valrl=20k
.param valrf=1T
.param valcf=1m
.op

*****< Power_Supply >*****
VDD	vdd gnd half
VDD1 vdd vdd1 dc 0 ac 1
VSS	gnd vss half
VSS1 vss2 vss dc 0 ac  1

******< Input >******
VIN inp gnd dc 0 ac 1

*****< Circuit Topology >*****
Xpsrr inm inp out vdd vss opamp

* For differential gain
X1 inm inp od vdd vss opamp
R1 od inm valrf
C1 inm gnd valcf
R2 od gnd valrl

* For VDD
X1a inm1 gnd odd vdd1 vss opamp
R1a odd gnd valrl
R2a odd inm1 valrf
C1a inm1 gnd valcf

* For VSS
X1b inm2 gnd oss vdd vss2 opamp
R1b oss gnd valrl
R2b oss inm2 valrf
C1b inm2 gnd valcf

******< Control >******
.AC DEC 100 0.1 10G
.TEMP 25

******< Measure command >******
.MEAS AC pd   FIND VDB(od,odd) AT=0.1
.MEAS AC ps   FIND VDB(od,oss) AT=0.1
.MEAS AC psrr PARAM='min(pd,ps)' AT=0.1

.endl
